US04572912
5-{4-[2-(6-Acetoxy-7-t-butyl-2-methylchroman-2-yl)ethoxy]benzyl}-2-iminothiazolidin-4-one
The procedure described in Example 1(a) was repeated, except that 266 mg of ethyl 3-{4-[2-(6-acetoxy-7-t-butyl-2-methylchroman-2-yl)ethoxy]phenyl}-2-chloropropionate, 50 mg of thiourea and 4 ml of sulfolane were heated at 110°-120° C. for 4.5 hours. The product was treated as described in Example 1(a) except that the crude product was purified by column chromatography through silica gel eluted with a 1:1 by volume mixture of benzene and ethyl acetate, to give the title compound, melting at 175°-178° C.

reactant | ethyl 3-{4-[2-(6-acetoxy-7-t-butyl-2-methylchroman-2-yl)ethoxy]phenyl}-2-chloropropionate | 266 mg | C(C)(=O)OC=1C=C2CCC(OC2=CC1C(C)(C)C)(C)CCOC1=CC=C(C=C1)CC(C(=O)OCC)Cl | C29H37ClO6
reactant | thiourea | 50 mg | NC(=S)N | CH4N2S
reactant | sulfolane | 4 ml | S1(=O)(=O)CCCC1 | C4H8O2S
product | 5-{4-[2-(6-Acetoxy-7-t-butyl-2-methylchroman-2-yl)ethoxy]benzyl}-2-iminothiazolidin-4-one | C(C)(=O)OC=1C=C2CCC(OC2=CC1C(C)(C)C)(C)CCOC1=CC=C(CC2C(NC(S2)=N)=O)C=C1 | C28H34N2O5S
